US09422271B2
A mixture of (2-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-5-yl)methanol (350 mg, 1.32 mmol), imidazole (107.6 mg, 1.58 mmol, 1.2 eq), TBDMSCl (238 mg, 1.58 mmol, 1.2 eq) in CH2Cl2 (10 mL) was stirred at 20° C. for 16 h. Water (30 mL) was added and the reaction was extracted with CH2Cl2 (4×30 mL). The combined organic phases were washed (brine), dried (Na2SO4), filtered and concentrated to afford 5-((tert-butyldimethylsilyloxy)methyl)-2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (500 mg, 99%). LC-MS (m/z)=380.0 [M+H]+.

reactant | (2-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-5-yl)methanol | 1.32 mmol, 350 mg | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)CO | C11H12ClN5O
reactant | imidazole | 1.58 mmol, 107.6 mg, 1.2 eq | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 1.58 mmol, 238 mg, 1.2 eq | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Water | 30 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-((tert-butyldimethylsilyloxy)methyl)-2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 500 mg, 99% | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC(=NC1)Cl)NC1=NNC(=C1)C1CC1 | C17H26ClN5OSi
